US06476045B2
1-{3-[5-Chloro-2-(4-chlorophenyl)-1-methyl-1H-indol-3-yl]-1-oxopropyl}-4-(phenylmethyl)-4-piperidinol
1,1-Carbonyl diimidazole (47 mg, 0.29 mmol) was added to a solution of 5-chloro-2-(4-chlorophenyl)-1-methyl-1H-indole-3-propanoic acid (Description 31, 100 mg, 0.29 mmol) in tetrahydrofuran (4 mL) and the mixture was heated under reflux for 2 h. The mixture was cooled and 4-(phenylmethyl)-4-piperidinol (52 mg, 0.27 mmol) was added. The mixture was stirred at room temperature overnight and the solvent was evaporated under reduced pressure. Water (4 mL) was added and the mixture was stirred at 80° C. for 2 h. The mixture was cooled, the water was decanted and the residue was dissolved in dichloromethane. Using a Bond Elut™ cartridge to separate the layers the solution was washed with hydrochloric acid (1M), and aqueous sodium hydroxide (2M). The organic fraction was evaporated under reduced pressure to a small volume and filtered through a plug of silica on a Bond Elut™ cartridge, eluting with hexane/EtOAc (85:15 increasing to 70:30), to give the title compound as a colorless solid (101 mg, 68%). 1H NMR (360 MHz, CDCl3) δ 7.53 (1H, s), 7.40 (2H, d, J 6.5 Hz), 7.07-7.27 (9H, m), 4.29 (1H, m), 3.47 (3H, s), 3.29 (1H, m), 3.11 (1H, m), 2.90 (2H, m), 2.79 (1H, m), 2.59 (2H, s), 2.43 (2H, m), 1.52 (1H, br s), 1.40 (2H, m), 1.29 (1H, m), and 1.15 (1H, m). m/z (ES+) 521, 523 (M+1). Found: C, 69.30; H, 5.82; N, 5.36. C30H30Cl2N2O2 requires: C, 69.10; H, 5.80; N, 5.37%.

reactant | 5-chloro-2-(4-chlorophenyl)-1-methyl-1H-indole-3-propanoic acid | 0.29 mmol, 100 mg | ClC=1C=C2C(=C(N(C2=CC1)C)C1=CC=C(C=C1)Cl)CCC(=O)O | C18H15Cl2NO2
reactant | 4-(phenylmethyl)-4-piperidinol | 0.27 mmol, 52 mg | C1(=CC=CC=C1)CC1(CCNCC1)O | C12H17NO
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 1-{3-[5-Chloro-2-(4-chlorophenyl)-1-methyl-1H-indol-3-yl]-1-oxopropyl}-4-(phenylmethyl)-4-piperidinol | 101 mg, 68% | ClC=1C=C2C(=C(N(C2=CC1)C)C1=CC=C(C=C1)Cl)CCC(=O)N1CCC(CC1)(O)CC1=CC=CC=C1 | C30H30Cl2N2O2
